US04568381
15.6 g of 2-amino-4,6-dimethoxy-1,3,5-triazine were suspended in 300 ml of dimethylformamide, and 4 g of sodium hydride (oily, 60%) were added to the suspension. The mixture was stirred at room temperature for 1 hour. Furthermore, 33.7 g of dimethyl N-(2-biphenylylsulfonyl)carbonimidodithioate were added, and the mixture was stirred at room temperature for a day and night. The reaction mixture was poured into 2 liters of water and filtered. The filtrate was made weakly acidic to precipitate white crystals. The crystals were collected by filtration and recrystallized from ethanol to give 36.2 g of 1-(2-biphenylylsulfonyl) 3-(4,6-dimethoxy-1,3,5-triazin-2-yl) 2-methylisothiourea (compound No. II-1), the same compound as obtained in Example 5. The melting point of the product was 135° to 137° C.

reactant | 2-amino-4,6-dimethoxy-1,3,5-triazine | 15.6 g | NC1=NC(=NC(=N1)OC)OC | C5H8N4O2
reactant | sodium hydride | 4 g | [H-].[Na+]
reactant | dimethyl N-(2-biphenylylsulfonyl)carbonimidodithioate | 33.7 g | C1(=C(C=CC=C1)S(=O)(=O)N=C(SC)SC)C1=CC=CC=C1 | C15H15NO2S3
reactant | water | 2 liters | O | H2O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 1-(2-biphenylylsulfonyl) 3-(4,6-dimethoxy-1,3,5-triazin-2-yl) 2-methylisothiourea | 36.2 g | C1(=C(C=CC=C1)S(=O)(=O)NC(SC)=NC1=NC(=NC(=N1)OC)OC)C1=CC=CC=C1 | C19H19N5O4S2
